US07141583B2
(5R)-3-(4-((3S)-3-Acetamidopyrrolidin-1-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one
Using essentially the technique of Example 19, but starting from (5R)-3-(4-((3S)-3-aminopyrrolidin-1-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one hydrochloride (250 mg, 0.65 mM), and replacing the methyl chloroformate with acetic anhydride gave the desired product (150 mg).

reactant | (5R)-3-(4-((3S)-3-aminopyrrolidin-1-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one hydrochloride | 0.65 mM, 250 mg | Cl.N[C@@H]1CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN1N=NC=C1)=O)F
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | (5R)-3-(4-((3S)-3-Acetamidopyrrolidin-1-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one | 150 mg | C(C)(=O)N[C@@H]1CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN1N=NC=C1)=O)F | C18H21FN6O3
